US08957105B2
Representative example for Method 23: Synthesis of N-(4-aminophenyl)methanesulfonamide (23-3, R═H)
To a solution of pyridine (50 mL) and MsCl (15.86 g, 139.13 mmol) in DCM (150 mL) was added the solution of 4-nitrobenzenamine (16.0 g, 115.94 mmol) in pyridine (100 mL) at 0° C. The mixture was stirred at room temperature for 4 h. The volatiles were removed under reduced pressure. The residue was rinsed with water (200 mL×3) and dried under reduced pressure to afford the title compound as a yellow powder (23.20 g, yield 95%).

reactant | MsCl | 139.13 mmol, 15.86 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | 4-nitrobenzenamine | 115.94 mmol, 16.0 g | [N+](=O)([O-])C1=CC=C(C=C1)N | C6H6N2O2
solvent | DCM | 150 mL | C(Cl)Cl | CH2Cl2
solvent | pyridine | 100 mL | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 50 mL | N1=CC=CC=C1 | C5H5N
product | N-(4-aminophenyl)methanesulfonamide | 23.20 g, yield 95% | NC1=CC=C(C=C1)NS(=O)(=O)C | C7H10N2O2S
